US05166198
a) 4-Chloro-6-[[4-(diethoxyphosphoryl)butoxy]amino]-5-formamidopyrimidine
4,6-Dichloro-5-formamidopyrimidine (0.441 g, 2.3 mmol), diethyl 4-(aminooxy)butylphosphonate (0.4 g, 1.77 mmol) and N,N-diisopropylethylamine (0.8 ml, 4.6 mmol) in diglyme (15 ml) were stirred at 100° C. for 2.5 hr. The reaction mixture was then allowed to cool, the hydrochloride of N,N-diisopropylethylamine was filtered off and the filtrate was diluted with chloroform (150 ml). The resulting solution was washed with 4% aq. NaHCO3 (1×20 ml) and water (1×20 ml). The combined aqueous layers were extracted with chloroform (6×20 ml) and the combined chloroform solutions were concentrated to an oil. The residue was chromatographed on silica gel (eluted with chloroform: ethanol, 96:4) to yield the title compound (0.520 g, 77%). 1H NMR: δH [(CD3)2SO] 1.22 (6H, t, J=7Hz, (OCH2CH3)2), 1.68 (6H, m, CH2CH 2CH2P), 3.9 (2H, m, NOCH2), 3.97 (4H, m, (OCH2CH3)2), 8.14 (1H, s, H-2), 9.5 (1H, br.s, NHOCH2, D2O exchangeable), 11.0 (1H, NHCHO, D2O exchangeable).

reactant | 4,6-Dichloro-5-formamidopyrimidine | 2.3 mmol, 0.441 g | ClC1=NC=NC(=C1NC=O)Cl | C5H3Cl2N3O
reactant | diethyl 4-(aminooxy)butylphosphonate | 1.77 mmol, 0.4 g | NOCCCCP(OCC)(OCC)=O | C8H20NO4P
reactant | N,N-diisopropylethylamine | 4.6 mmol, 0.8 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | diglyme | 15 ml | COCCOCCOC | C6H14O3
product | 4-Chloro-6-[[4-(diethoxyphosphoryl)butoxy]amino]-5-formamidopyrimidine | 0.520 g, 77% | ClC1=NC=NC(=C1NC=O)NOCCCCP(=O)(OCC)OCC | C13H22ClN4O5P
